US05260430
A solution of 41.6 g (0.20 mol) of sodium 4-hydroxymandelate monohydrate, 9.6 g (0.24 mol) of sodium hydroxide and 27.9 g (0.22 mol) of benzyl chloride in 50 ml of water is stirred for 17 hours at 70° C. It is then diluted using 50 ml of water, and a further 4.0 g (0.10 mol) of sodium hydroxide are added. The reaction mixture is refluxed for one hour, then cooled and acidified using concentrated hydrochloric acid, and the product which has precipitated is filtered. The residue is washed with cold water and subsequently dried under a high vacuum. 35.6 g (69%) of 4-benzyloxymandelic acid, m.p. 148°-155° C., result.

reactant | sodium 4-hydroxymandelate monohydrate | 0.20 mol, 41.6 g | O.OC1=CC=C(C(C(=O)[O-])O)C=C1.[Na+]
reactant | sodium hydroxide | 0.24 mol, 9.6 g | [OH-].[Na+]
reactant | benzyl chloride | 0.22 mol, 27.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydroxide | 0.10 mol, 4.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 4-benzyloxymandelic acid | 35.6 g, 69% | C(C1=CC=CC=C1)OC1=CC=C(C(C(=O)O)O)C=C1 | C15H14O4
